US05985901
Step 2H (S)-N-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]propyl}-2,4-dinitro-N-[2-(4-[1,2,4]triazol-4-yl-phenyl)ethyl]benzenesulfonamide
To a solution of (S)-N-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl 2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-2,4-dinitrobenzenesulfonamide (0.197 g in 6 mL dry benzene:N,N-dimethylformamide, 2:1) was added 0.083 g 2-(4-[1,2,4]triazol-4-yl-phenyl)ethanol followed by 0.115 g triphenylphosphine and 0.069 mL of diethyl azodicarboxylate added dropwise. After 1.5 hours, the mixture was concentrated and the crude reaction product purified by flash chromatography on silica gel (methylene chloride:methanol, 95:5) to give the title compound (0.246 g).

reactant | (S)-N-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl 2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-propyl}-2,4-dinitrobenzenesulfonamide | 6 mL, 0.197 g | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)[C@@H](CNS(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C)=O | C35H39N5O7S
reactant | 2-(4-[1,2,4]triazol-4-yl-phenyl)ethanol | 0.083 g | N=1N=CN(C1)C1=CC=C(C=C1)CCO | C10H11N3O
reactant | triphenylphosphine | 0.115 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.069 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | (S)-N-{2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]propyl}-2,4-dinitro-N-[2-(4-[1,2,4]triazol-4-yl-phenyl)ethyl]benzenesulfonamide | 0.246 g | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)[C@@H](CN(S(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])CCC2=CC=C(C=C2)N2C=NN=C2)C)=O | C45H48N8O7S
